Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Robitussin / Penicillins / Imitrex
 
Attending: ___.
 
Chief Complaint:
Frequent bloody stools
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with ulcerative colitis who has been on oral prednisone for 
one week for a recent flare who is presenting with progressively 
worsening bloody diarrhea while on steroids. She is having 
anywhere from ___ bloody bowel movements per day with associated 
bloating and progressive increases in the amount of blood per 
bowel movement despite steroid therapy. She is currently on 40mg 
PO prednisone per day and had a colonoscopy two weeks ago. Only 
had one other flare in ___ that was difficult to eradicate and 
required steroid enemas in addition to systemic steroids. She 
denies N/V, lightheadedness, dizziness, CP, SOB or other 
systemic symptoms. She also endorses post-coital vaginal 
bleeding and cramping for the past month that causes her to use 
a pad even when she is not menstruating. The bleeding lasts for 
two days after sex. She has an implantable birth control. She 
has a primary care appointment on ___ to evaluate her 
post-coital bleeding and is not currently bleeding or having 
pain in the vagina. Her PCP recommended that she come to the ED 
for failure of outpatient steroid treatment for UC.
 
In the ED, initial vitals were: 96.2 75 119/58 18 99% RA 

Labs notable for:
WBC 11.5
Otherwise normal CBC, chem-7
Contaminated UA
 
Past Medical History:
Roux-en-Y Gastric bypass surgery w/ CCY (___) 
 - dumping syndrome
Hx IBS
Ulcerative colitis (dx'd ___, single flare tx'd systemic and 
topical steroids by enema)
G7P4134 including 1ectopic,1 TAb,1SAb. 2 vaginal births, 2 
C-sections
SALPINGECTOMY ___ 
Iron deficiency anemia (per records)
Hx pre-eclampsia (required delivery preterm at 6mos)
Hx gestational DM
Hx migraines with aura (per records)
 
Social History:
___
Family History:
No family history IBD or autoimmune conditions
 
Physical Exam:
ADMISSION EXAM
====================
Vital Signs: 98.2 ___ 20 99RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities 
 

DISCHARGE EXAM
====================
Vitals:  97.5-98.2 | ___ | ___ | ___ | ___ RA
General: alert, oriented, no acute distress, conversant  
HEENT: sclera anicteric, MMM, oropharynx without lesions
Neck: supple, JVP difficult to appreciate ___ body habitus
Lungs: clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, obese, non-tender, non-distended, bowel sounds 
present, no rebound tenderness or guarding, no organomegaly. 
C-section scar well healed.
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNs2-12 intact, motor function grossly normal with grip 
strength ___ and ankle plantar/dorsiflexion ___. 
 
Pertinent Results:
ADMISSION LABS
====================
___ 06:05PM BLOOD WBC-11.5* RBC-4.04 Hgb-12.6 Hct-38.5 
MCV-95 MCH-31.2 MCHC-32.7 RDW-12.2 RDWSD-42.1 Plt ___
___ 06:05PM BLOOD Neuts-58.3 ___ Monos-7.5 Eos-1.6 
Baso-0.5 Im ___ AbsNeut-6.72* AbsLymp-3.57 AbsMono-0.86* 
AbsEos-0.19 AbsBaso-0.06
___ 06:05PM BLOOD Glucose-93 UreaN-18 Creat-0.8 Na-139 
K-4.3 Cl-102 HCO3-25 AnGap-16
___ 06:05PM BLOOD CRP-0.6
___ 06:58PM URINE Color-Yellow Appear-Hazy Sp ___
___ 06:58PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-5.5 Leuks-MOD
___ 06:58PM URINE RBC-3* WBC-3 Bacteri-FEW Yeast-NONE 
Epi-26

INTERVAL LABS
====================
___ 07:35AM BLOOD Calcium-9.1 Phos-4.0 Mg-2.2
___ 10:50AM BLOOD ___ PTT-26.4 ___
___ 10:50AM BLOOD ALT-9 AST-13 LD(LDH)-187 AlkPhos-84 
TotBili-0.4
___ 10:50AM BLOOD Albumin-4.5 Iron-108
___ 10:50AM BLOOD calTIBC-321 Ferritn-20 TRF-247

MICROBIOLOGY
====================
___ STOOL studies
 - C. difficile DNA amplification assay- Negative for toxigenic 
C. difficile by the Illumigene DNA amplification assay. 
 - FECAL CULTURE - R/O E.COLI 0157:H7-FINAL- NO E.COLI 0157:H7 
FOUND. 
 - FECAL CULTURE-PENDING
 - CAMPYLOBACTER CULTURE-PENDING
 - OVA + PARASITES-PENDING
 - FECAL CULTURE - R/O VIBRIO-PENDING
 - FECAL CULTURE - R/O YERSINIA-PENDING
 - Cryptosporidium/Giardia (DFA)-PENDING
 - CYCLOSPORA STAIN-PENDING
 - MICROSPORIDIA STAIN-PENDING 

DISCHARGE LABS
====================
___ 07:10AM BLOOD WBC-13.6* RBC-4.27 Hgb-13.1 Hct-40.7 
MCV-95 MCH-30.7 MCHC-32.2 RDW-12.0 RDWSD-41.5 Plt ___
___ 07:10AM BLOOD Glucose-94 UreaN-12 Creat-0.7 Na-139 
K-4.1 Cl-100 HCO3-26 AnGap-17

 
Brief Hospital Course:
Ms ___ is a ___ with PMHx s/p Roux-en-Y gastric bypass and 
ulcerative colitis who presents with 4 months of bloody diarrhea 
recently worsened in last ___ weeks.

# Ulcerative colitis flare: Symptom pattern consistent with mild 
colitis flare ___ month history of bloody stools with subacute 
worsening, narrowed stool caliber similar to prior flare, 
feeling need to move bowels but being unable to do so, mild 
abdominal discomfort) and pathology from ___ biopsy is also 
supportive. Prior flare of colitis (in records ulcerative 
colitis) in ___ reportedly controlled with systemic/topical 
steroids. Precipitant may be stress given pt notes markedly 
increased stress level lately. While lack of urgency and normal 
CRP do not fit with UC flare, a UC flare remains most likely 
etiology. Differential could consider other causes of chronic 
bloody stools: marginal ulcer less likely (no EGD findings, 
minimal NSAID use, no smoking hx, minimal pain), but h. pylori 
antigen was sent and was pending at discharge. Infectious causes 
were less likely (limited travel history, lack of fevers), but 
stool studies were sent and were pending at discharge. IV 
methylprednisolone was administered before transition to PO 
prednisone on ___ PO mesalamine and PR mesalamine were 
initiated per gastroenterology. The patient was discharged with 
a regimen of 40mg prednisone daily, 1600mg mesalamine PO three 
times a day, and nightly rectal mesalamine suppositories with 
instructions for follow-up with her gastroenterologist in 7days. 


# Vaginal bleeding: Pt did not report any vaginal 
bleeding/spotting while inpatient. These symptoms were 
considered unlikely to be related to UC flare. Pap smear history 
per patient was reassuring, and etiology of bleeding may be a 
side effect of nexplanon. She should continue outpatient follow 
up with PCP.

# s/p gastric bypass: per patient, past difficulty with 
nutritional deficiencies. Home vitamin supplements (B12, Ca, 
VitD) were continued.

# History iron deficient anemia: No anemia at admission. Last 
anemia studies in ___. Given active recent blood loss and 
>6mos since last studies, iron studies were rechecked and were 
within normal limits.

TRANSITIONAL ISSUE
- Follow up with your primary care doctor for further evaluation 
of your vaginal bleeding
- Follow up with a gastroenterologist in 7days. Your 
gastroenterologist will decide how to taper (slowly decrease) 
your oral prednisone dose; GI consult here recommends 2 weeks at 
40 mg followed by a fast taper if tolerated
- Started mesalamine PO and rectal suppositories
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Calcium Carbonate 500 mg PO TID 
2. PredniSONE 40 mg PO DAILY 
3. Cyanocobalamin 250 mcg PO DAILY 
4. Vitamin D ___ UNIT PO 1X/WEEK (___) 

 
Discharge Medications:
1.  Mesalamine (Rectal) ___AILY 
Try to maintain in place for ___ hours. 
RX *mesalamine [Canasa] 1,000 mg 1 suppository(s) rectally at 
bedtime Disp #*16 Suppository Refills:*0 
2.  Mesalamine ___ 1600 mg PO TID 
RX *mesalamine [Asacol HD] 800 mg 2 tablet(s) by mouth three 
times a day Disp #*96 Tablet Refills:*0 
3.  Calcium Carbonate 500 mg PO TID  
4.  Cyanocobalamin 250 mcg PO DAILY  
5.  PredniSONE 40 mg PO DAILY  
6.  Vitamin D ___ UNIT PO 1X/WEEK (___)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
Ulcerative colitis

SECONDARY DIAGNOSIS
Hematochezia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___-

___ was a pleasure taking care of you at ___. You came to the 
hospital because you were having frequent bloody stools. This 
was likely a flare of your ulcerative colitis. You were treated 
with IV steroids that were transitioned to oral steroids, oral 
mesalamine, and rectal suppository mesalamine. Your symptoms 
improved with this treatment. You were provided with 
prescriptions for medications to use at home.

You should follow-up with a gastroenterologist in the next 7 
days. Please take all of the medications as prescribed, 
including the oral prednisone, oral mesalamine, and rectal 
suppository mesalamine.

Again, it was a pleasure taking care of you.

-Your ___ team
 
Followup Instructions:
___